US04440929
4-Amino-7-trifluoromethylimidazo[1,5-a]quinoxaline 3-carboxylic acid ethyl ester
A small stream of anhydrous ammonia was passed through a solution of 4-chloro-7-trifluoromethylimidazo[1,5-a]quinoxaline 3-carboxylic acid ethyl ester (5.4 g) in chloroform-ethanol (100 ml each) for 30 minutes. The precipitate was collected and recrystallized from DMF to give the product as an off-white crystalline solid (2.9 g, 57% yield), m.p. >300° C.

reactant | ammonia | N | H3N
reactant | 4-chloro-7-trifluoromethylimidazo[1,5-a]quinoxaline 3-carboxylic acid ethyl ester | 5.4 g | C(C)OC(=O)C=1N=CN2C1C(=NC1=CC(=CC=C21)C(F)(F)F)Cl | C14H9ClF3N3O2
solvent | chloroform ethanol | 100 ml | C(Cl)(Cl)Cl.C(C)O
product | 4-Amino-7-trifluoromethylimidazo[1,5-a]quinoxaline 3-carboxylic acid ethyl ester | 2.9 g, 57% yield | C(C)OC(=O)C=1N=CN2C1C(=NC1=CC(=CC=C21)C(F)(F)F)N | C14H11F3N4O2
